US06150373
A stirred solution, cooled in ice, of 12 ml of phosgene (20% solution in toluene; 23 mmol) in 100 ml of tetrahydrofuran was treated dropwise with a solution of 5 g (15.2 mmol) of 5-(2,6-dichlorophenyl)aminomethyl-4-methylamino-2-methylthiopyrimidine and 4 ml (29 mmol) of triethylamine in 80 ml of tetrahydrofuran. After stirring for 1 hour the mixture was treated with 100 ml of saturated aqueous ammonium chloride solution and the phases were separated. The aqueous phase was extracted with 100 ml of tetrahydrofuran and the combined organic solutions were dried over magnesium sulfate and filtered. The filtrate was concentrated under reduced pressure to give 4.8 g (89%) of 3-(2,6-dichlorophenyl)-7-methylthio-3,4-dihydro-1-methylpyrimido[4,5-d]pyrimidin-2(1H)-one as a white solid.

reactant | phosgene | 23 mmol, 12 ml | C(=O)(Cl)Cl | CCl2O
reactant | 5-(2,6-dichlorophenyl)aminomethyl-4-methylamino-2-methylthiopyrimidine | 15.2 mmol, 5 g | ClC1=C(C(=CC=C1)Cl)NCC=1C(=NC(=NC1)SC)NC | C13H14Cl2N4S
reactant | triethylamine | 29 mmol, 4 ml | C(C)N(CC)CC | C6H15N
reactant | ammonium chloride | 100 ml | [Cl-].[NH4+]
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
product | 3-(2,6-dichlorophenyl)-7-methylthio-3,4-dihydro-1-methylpyrimido[4,5-d]pyrimidin-2(1H)-one | 4.8 g, 89% | ClC1=C(C(=CC=C1)Cl)N1C(N(C2=NC(=NC=C2C1)SC)C)=O | C14H12Cl2N4OS
